US04415566
4.68 gm (0.03 mol) of 2-mercapto-5-nitro-pyridine were dissolved, while gently heating, in a sodium hydroxide solution prepared by dissolving 1.32 gm (0.033 mol) of sodium hydroxide in 60 ml of water. 4.17 gm (0.033 mol) of dimethylsulfate were added to this solution, and the mixture was shaken well. The resulting precipitate was filtered off with suction, and the still moist product was recrystallized from ethanol. 2-Methylthio-5-nitro-pyridine was obtained.

reactant | 2-mercapto-5-nitro-pyridine | 0.03 mol, 4.68 gm | SC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 0.033 mol, 1.32 gm | [OH-].[Na+]
reactant | dimethylsulfate | 0.033 mol, 4.17 gm | COS(=O)(=O)OC | C2H6O4S
solvent | water | 60 ml | O | H2O
product | 2-Methylthio-5-nitro-pyridine | CSC1=NC=C(C=C1)[N+](=O)[O-] | C6H6N2O2S
